US06869954B2
Preparation of 2-(3,4-difluorobenzyl)-4-dimethylaminomethyl-6-(3-fluoro-4-methoxyphenyl)-2H-pyridazin-3-one
Following the procedure of Example 7, 2-(3,4-difluorobenzyl)-6-(3-fluoro-4-methoxyphenyl)-4-methanesulfonyloxymethyl-2H-pyridazin-3-one and dimethylamine were reacted to yield the title compound as slightly-yellow needles (yield: 77.1%).

reactant | 2-(3,4-difluorobenzyl)-6-(3-fluoro-4-methoxyphenyl)-4-methanesulfonyloxymethyl-2H-pyridazin-3-one | FC=1C=C(CN2N=C(C=C(C2=O)COS(=O)(=O)C)C2=CC(=C(C=C2)OC)F)C=CC1F | C20H17F3N2O5S
reactant | dimethylamine | CNC | C2H7N
product | 2-(3,4-difluorobenzyl)-4-dimethylaminomethyl-6-(3-fluoro-4-methoxyphenyl)-2H-pyridazin-3-one | yield: 77.1% | FC=1C=C(CN2N=C(C=C(C2=O)CN(C)C)C2=CC(=C(C=C2)OC)F)C=CC1F | C21H20F3N3O2
